US08202868B2
2-tert-Butyl-4-cyclopropyl-6-{4-[3-(1-methyl-1H-tetrazol-5-ylsulfanyl)-propyl]-piperazin-1-yl}-pyrimidine hydrochloride
0.346 g of 1-Methyl-1H-tetrazole-5-thiol (2.98 mmol), 0.071 g of lithium hydroxide (2.98 mmol), and 0.223 g of sodium iodide (1.49 mmol) were stirred in 25 ml of dimethylformamide at 70° C. A solution of 1 g of 2-tert-butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-cyclopropyl-pyrimidine (2.98 mmol) in 4 ml of dimethylformamide was added slowly within 2 h. After stirring for 2 h at 80° C., the dimethylformamide was evaporated under reduced pressure. The residue was partitioned between 15 ml of aqueous sodium chloride, 15 ml of water and 30 ml of ethyl acetate. The aqueous phase was re-extracted twice with ethyl acetate. The combined ethyl acetate phases were combined and dried over magnesium sulfate. The solvent was evaporated under reduced pressure. The crude product obtained was purified by column chromatography on silica gel using dichloromethane-ethyl acetate (7:3). Fractions containing the product were combined. The solvent was evaporated under reduced pressure. The residue was re-dissolved in 12 ml of ethyl acetate and treated with 2 equivalents of hydrochloric acid in dioxane. The supernatant was removed with a pipette, diisopropyl ether was added, the mixture was stirred, and the solvent was evaporated slowly under reduced pressure to yield 0.9 g of the title compound.

reactant | 1-Methyl-1H-tetrazole-5-thiol | 2.98 mmol, 0.346 g | CN1N=NN=C1S | C2H4N4S
reactant | lithium hydroxide | 2.98 mmol, 0.071 g | [OH-].[Li+]
reactant | sodium iodide | 1.49 mmol, 0.223 g | [I-].[Na+]
reactant | 2-tert-butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-cyclopropyl-pyrimidine | 2.98 mmol, 1 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCl)C1CC1 | C18H29ClN4
reactant | hydrochloric acid | 2 equivalents | Cl | ClH
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-tert-Butyl-4-cyclopropyl-6-{4-[3-(1-methyl-1H-tetrazol-5-ylsulfanyl)-propyl]-piperazin-1-yl}-pyrimidine hydrochloride | 0.9 g | Cl.C(C)(C)(C)C1=NC(=CC(=N1)C1CC1)N1CCN(CC1)CCCSC1=NN=NN1C | InChI=1S/C20H32N8S.ClH/c1-20(2,3)18-21-16(15-6-7-15)14-17(22-18)28-11-9-27(10-12-28)8-5-13-29-19-23-24-25-26(19)4;/h14-15H,5-13H2,1-4H3;1H
